US03992446
Preparation of 1-Amino-3-(4-chlorobenzylideneamino)guanidine Hydrochloride
The preparation of the subject compound may also be accomplished as follows: 25 g. of 1,3-diaminoguanidine hydrochloride is dissolved in 1800 ml. of boiling ethanol. To this boiling solution, 28 g. of 4-chlorobenzaldehyde in 300 ml. of ethanol is added over a period of 8 hours. The reaction mixture is then cooled at 0° C. overnight, clarified, and the filtrate concentrated to 500 ml. volume and cooled at 0° C. 29 g. of precipitate is obtained. This is slurried in 300 ml.of water, the pH adjusted to 8-8.5 with sodium hydroxide solution, the slurry heated to boiling and filtered. Cooling the filtrate gives 18 g. ofessentially pure product melting at 243°-244° C., as in the previous preparation.

reactant | 1,3-diaminoguanidine hydrochloride | Cl.NNC(=N)NN
reactant | ethanol | C(C)O | C2H6O
reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-Amino-3-(4-chlorobenzylideneamino)guanidine Hydrochloride | Cl.NNC(=N)NN=CC1=CC=C(C=C1)Cl | InChI=1S/C8H10ClN5.ClH/c9-7-3-1-6(2-4-7)5-12-14-8(10)13-11;/h1-5H,11H2,(H3,10,13,14);1H
